US05013482
1,2-Epoxydodecane is reacted with sodium in methanol as in Example 1 to yield 1-methoxy-2-dodecanol as a colourless oil, bp 97° C./0.07 mbar, yield 88%.

reactant | 1,2-Epoxydodecane | O1CC1CCCCCCCCCC | C12H24O
reactant | sodium | [Na] | Na
reactant | methanol | CO | CH4O
product | 1-methoxy-2-dodecanol | yield 88% | COCC(CCCCCCCCCC)O | C13H28O2
